US06875775B2
d) (Z)-2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamino]ethanol (No. 41)
(Z)-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamino]acetic acid ethyl ester (2.9 g, 6.9 mmol) is dissolved in tetrahydrofuran and lithium aluminum hydride (0.34 g, 8.97 mmol) is added in small portions during fifteen minutes. The mixture is stirred at room temperature for two hours. Then the solvent is evaporated to dryness and the residue is dissolved in ethyl acetate and washed with water. Ethyl acetate phase is evaporated to dryness and the product is purified by flash chromatography with toluene:methanol:triethylamine solution (10:0.3:0.3) as an eluent. Yield 0.47 g.

reactant | (Z)-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamino]acetic acid ethyl ester | 6.9 mmol, 2.9 g | C(C)OC(CNC1=CC=C(C=C1)\C(=C(\CCCl)/C1=CC=CC=C1)\C1=CC=CC=C1)=O | C26H26ClNO2
reactant | lithium aluminum hydride | 8.97 mmol, 0.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (Z)-2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamino]ethanol | ClCC/C(=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)NCCO)/C1=CC=CC=C1 | C24H24ClNO
